US05552411
step C: preparation of 6-(2-Ethyl-benzenesulfonyl)-5-nitro-quinolin-8-ylamine
N-[6-(2-Ethyl-benzenesulfonyl)-5-nitro-quinolin-8-yl]-acetamide (0.5 g) is stirred at reflux in 2N hydrochloric acid (50 mL) and 1,4-dioxane (50 mL) for 2 hours. The mixture is added to 2N sodium carbonate (200 mL) and extracted with ethyl acetate (3×100 mL). The extracts are washed with saturated brine (150 mL), dried over magnesium sulfate, filtered, and evaporated to leave an orange solid. This solid is crystallized from hot ethyl acetate to give the title compound as orange crystals; mp 213°-216° C.

reactant | N-[6-(2-Ethyl-benzenesulfonyl)-5-nitro-quinolin-8-yl]-acetamide | 0.5 g | C(C)C1=C(C=CC=C1)S(=O)(=O)C=1C(=C2C=CC=NC2=C(C1)NC(C)=O)[N+](=O)[O-] | C19H17N3O5S
reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 2N, 200 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 2N, 50 mL | Cl | ClH
product | 6-(2-Ethyl-benzenesulfonyl)-5-nitro-quinolin-8-ylamine | C(C)C1=C(C=CC=C1)S(=O)(=O)C=1C(=C2C=CC=NC2=C(C1)N)[N+](=O)[O-] | C17H15N3O4S
